US06747023B1
Diethyl ether and a saturated aqueous solution of sodium bicarbonate were added to 4-bromopyridine hydrochloride (3.76 g). The organic layer thus separated was dried over anhydrous sodium sulfate and concentrated under reduced pressure, whereby a diethyl ether solution of 4-bromopyridine was obtained. To the resulting solution were added (5-thiazolyl)trimethyltin (4.00 g), benzene (150 ml) and tetrakis(triphenylphosphine)palladium (950 mg), followed by heating under reflux for 12 hours. After allowed to cool down to room temperature, the reaction mixture was added with a saturated aqueous solution (100 ml) of sodium bicarbonate and ethyl acetate (50 ml). The water layer thus separated was extracted with ethyl acetate (2×50 ml) and methylene chloride (2×50 ml). The organic layers were combined, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was purified by chromatography on a silica gel column (methylene chloride:ethyl acetate=5:1→2:1), whereby 4-(5-thiazolyl)pyridine was obtained as a colorless, transparent oil. The resulting oil was dissolved in diethyl ether (80 ml), followed by the dropwise addition of n-butyl lithium (a 1.52N hexane solution, 11.5 ml) at −78° C. After stirring for 30 minutes, a carbon dioxide gas was blown into the reaction mixture. Ten minutes later, the temperature was increased gradually to room temperature. The reaction mixture was concentrated, whereby the residue of lithium 5-(pyridin-4-yl)thiazole-2-carboxylate was obtained as a colorless solid. To a solution of the resulting residue in N,N-dimethylformamide (50 ml) were added l-(tert-butoxycarbonyl)piperazine (3.30 g), 1-hydroxybenzotriazole monohydrate (2.40 g) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (3.40 g) at room temperature. The resulting mixture was stirred for 3 days. Ethyl acetate (200 ml) and water (2000 ml) were added to the reaction mixture. The water layer thus separated was extracted with ethyl acetate (2×200 ml). The organic layers were combined, washed with water (1000 ml) and a saturated aqueous solution (400 ml) of sodium bicarbonate, dried over anhydrous sodium sulfate and distilled under reduced pressure to remove the solvent. The residue was reprecipitated in a methylene chloride—hexane system, whereby the title compound (3.00 g) was obtained as pale brown powder.

reactant | Diethyl ether | C(C)OCC | C4H10O
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | 4-bromopyridine hydrochloride | 3.76 g | Cl.BrC1=CC=NC=C1
reactant | (5-thiazolyl)trimethyltin | 4.00 g | S1C=NC=C1[Sn](C)(C)C
reactant | sodium bicarbonate | 100 ml | C([O-])(O)=O.[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 950 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | benzene | 150 ml | C1=CC=CC=C1 | C6H6
product | 4-(5-thiazolyl)pyridine | S1C=NC=C1C1=CC=NC=C1 | C8H6N2S
